US06291432B1
(R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-[N-(5-isoquinolinyloxyacetyl)-L-valyl]amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide (iQoa-Val-Apns-Dmt-NHBzl(2-Me))
5-isoquinolinyloxyacetic acid (64 mg), HOBt (43 mg), and EDC.HCl (60 mg) were added to H-Val-Apns-Dmt-NHBzl(2-Me) (162 mg) obtained in the step 2 and the mixture was stirred overnight. After the addition of ethyl acetate, the reaction mixture was washed with 3% NaHCO3 and 5% NaCl and dried over MgSO4. After filtration and concentration, the residue was reprecipitated from ethyl acetate/n-hexane to obtain the title compound (168 mg).

reactant | 5-isoquinolinyloxyacetic acid | 64 mg | C1=NC=CC2=C(C=CC=C12)OCC(=O)O | C11H9NO3
reactant | HOBt | 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 60 mg | CCN=C=NCCCN(C)C.Cl
reactant | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-(L-valyl)amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4carboxamide | 162 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](N)C(C)C)=O)O)=O)C=CC=C1 | C29H40N4O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-[N-(5-isoquinolinyloxyacetyl)-L-valyl]amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 168 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](NC(COC2=C3C=CN=CC3=CC=C2)=O)C(C)C)=O)O)=O)C=CC=C1 | C40H47N5O6S
